US06420385B1
2-34 2-((3-Amino-3-(2-fluorophenyl)propyl)-amino)-5-(4-fluorophenyl)-3-methyl-6-(4-pyridyl)-4(3H)-pyrimidinone was prepared from 5-(4-fluorophenyl)-3-methyl-2-methylthio-6-(4-pyridyl)-4(3H)-pyrimidinone and 1-(2-fluorophenyl)-1,3-propanediamine according to the General Procedure. The reaction was done at 190° C. for 3 h. MS (m/z): 448.1 (M+H)+; C25H23F2N5O requir. 447.5 (free base).

reactant | 5-(4-fluorophenyl)-3-methyl-2-methylthio-6-(4-pyridyl)-4(3H)-pyrimidinone | FC1=CC=C(C=C1)C=1C(N(C(=NC1C1=CC=NC=C1)SC)C)=O | C17H14FN3OS
reactant | 1-(2-fluorophenyl)-1,3-propanediamine | FC1=C(C=CC=C1)C(CCN)N | C9H13FN2
product | 2-((3-Amino-3-(2-fluorophenyl)propyl)-amino)-5-(4-fluorophenyl)-3-methyl-6-(4-pyridyl)-4(3H)-pyrimidinone | NC(CCNC1=NC(=C(C(N1C)=O)C1=CC=C(C=C1)F)C1=CC=NC=C1)C1=C(C=CC=C1)F | C25H23F2N5O
